US08420655B2
5-{2-[2-(5-Amino-1,3,4-oxadiazol-2-yl)-phenyl]-1-tert-butyl-1H-benzimidazol-5-yl}-pyrimidin-2-ylamine
To a vial is added 2-[5-(2-amino-pyrimidin-5-yl)-1-tert-butyl-1H-benzimidazol-2-yl]-benzoic acid hydrazide (43 mg, 0.107 mmol) in 1,4-dioxane (2 mL), followed by the addition of NaHCO3 (13 mg, 0.155 mmol) in water (0.5 mL), then cyanogen bromide (13 mg, 0.123 mmol). The reaction mixture is stirred at room temperature for 18 hours. The reaction mixture is concentrated in vacuo. The residue is loaded to a silica gel column. The column is eluted with 0-8% 2M NH3 in MeOH/CH2Cl2. The product fractions are collected and concentrated to afford the title compound (30 mg, 66%) as an off-white solid. LCMS (ESMS): m/z 427.76 (M++1)

reactant | 2-[5-(2-amino-pyrimidin-5-yl)-1-tert-butyl-1H-benzimidazol-2-yl]-benzoic acid hydrazide | 0.107 mmol, 43 mg | NC1=NC=C(C=N1)C1=CC2=C(N(C(=N2)C2=C(C(=O)NN)C=CC=C2)C(C)(C)C)C=C1 | C22H23N7O
reactant | NaHCO3 | 0.155 mmol, 13 mg | C(=O)(O)[O-].[Na+]
reactant | cyanogen bromide | 0.123 mmol, 13 mg | N#CBr | CBrN
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.5 mL | O | H2O
product | 5-{2-[2-(5-Amino-1,3,4-oxadiazol-2-yl)-phenyl]-1-tert-butyl-1H-benzimidazol-5-yl}-pyrimidin-2-ylamine | 30 mg, 66% | NC1=NN=C(O1)C1=C(C=CC=C1)C1=NC2=C(N1C(C)(C)C)C=CC(=C2)C=2C=NC(=NC2)N | C23H22N8O
